data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1cc(Cl)ccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(Cl)cc2F)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(Cl)cc2F)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)cc1F"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(Cl)cc1F", "products": "O=C1CCN2C[C@H](OCc3ccc(Cl)cc3F)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "CCOC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccccc1", "products": "CCOC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1"}, {"reactants": "CCOC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1ccccc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OCC)c1ccccc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OCC)c1ccccc1", "products": "CCOC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1cc(Cl)c(Cl)cc1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1cc(Cl)c(Cl)c[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1cc(Cl)c(Cl)c[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(Cl)c(Cl)cc21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(Cl)c(Cl)cc21", "products": "CN1C(=O)C2(C=CCC2)c2cc(Cl)c(Cl)cc21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OC(C)C(F)(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3OC(C)C(F)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3OC(C)C(F)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(C)C2(F)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OC(C)C2(F)O3)cc1", "products": "CC1OC2OC1(F)C1C(=O)C21"}, {"reactants": "CC1OC2OC1(F)C1C(=O)C21.[O-]C", "products": "COC1([O-])C2C3OC(C)C(F)(O3)C21"}, {"reactants": "COC1([O-])C2C3OC(C)C(F)(O3)C21.CO", "products": "COC(=O)C1CC2(F)OC1OC2C"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccc(F)c(C(=O)C2C3CCC2C3)c1", "products": "COc1ccc(F)c([C]([O])C2C3CCC2C3)c1"}, {"reactants": "COc1ccc(F)c([C]([O])C2C3CCC2C3)c1", "products": "COc1ccc(F)c(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "COc1ccc(F)c(C([O])=CC2C[CH]CC2)c1", "products": "COc1ccc(F)c(C(O)=CC2C=CCC2)c1"}, {"reactants": "COc1ccc(F)c(C(O)=CC2C=CCC2)c1", "products": "COc1ccc(F)c(C(=O)CC2C=CCC2)c1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(C(C)C)O[SiH](c1ccccc1)c1ccccc1.[Rh]", "products": "C=CCC(C(C)C)O[Si]([RhH])(c1ccccc1)c1ccccc1"}, {"reactants": "C=CCC(C(C)C)O[Si]([RhH])(c1ccccc1)c1ccccc1", "products": "CC(C1CC2C[RhH]2[Si](c3ccccc3)(O1)c4ccccc4)C"}, {"reactants": "CC(C1CC2C[RhH]2[Si](c3ccccc3)(O1)c4ccccc4)C", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH])C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH])C.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(CC([RhH])=O)[Si](O1)(c2ccccc2)c3ccccc3"}, {"reactants": "CC(C)C1CC(CC([RhH])=O)[Si](O1)(c2ccccc2)c3ccccc3", "products": "O=CCC1CC(C(C)C)O[Si]1(c1ccccc1)c1ccccc1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(C)ccc1F)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)ccc1F)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)ccc1F)C(C)C", "products": "Cc1ccc(F)c([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "Cc1ccc(F)c([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "Cc1ccc(F)c([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "Cc1ccc(F)c([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1ccc(F)c([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "Cc1ccc(F)c([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "Cc1ccc(F)c([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
